US07645760B2
a) (E)-3-(2-Bromo-4chlorophenyl)-acrylic acid methyl ester
2-Bromo-4-chlorobenzaldehyde (Boegesoe, Klaus P. et al., J. Med. Chem. (1983), 26(7), 93547) (6.3g, 28.7 mmol) and methoxycarbonylmethylenetriphenylphosphor-ane (10.5 g, 31.6 mmol) were refluxed in toluene (143 ml) for 1 hour. The reaction mixture was cooled and purified via chromatography (SiO2, acetone/hexanes 5/95) to yield the title compound as colorless crystals (4.8 g, 61%).

reactant | 2-Bromo-4-chlorobenzaldehyde | 28.7 mmol, 6.3g | BrC1=C(C=O)C=CC(=C1)Cl | C7H4BrClO
reactant | methoxycarbonylmethylenetriphenylphosphor-ane | 31.6 mmol, 10.5 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | toluene | 143 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(2-Bromo-4chlorophenyl)-acrylic acid methyl ester | 4.8 g, 61% | COC(\C=C\C1=C(C=C(C=C1)Cl)Br)=O | C10H8BrClO2
